US05464617
a) Benzyl (2S,3S)-1-(3,4-dimethoxybenzyl)-2-[(R)-2-oxo-1,3-dioxolan-4-yl]-4-oxo-3-azetidine carbamate
215.23 g (0.5 mol) of benzyl (2S,3S)-1-(3,4-dimethoxybenzyl)-2-[1 (R),2-dihydroxyethyl]-4-oxo-3-azetidinecarbamate were dissolved in 3 l of THF at the boiling temperature. 12.61 g (0.75 mol) of 1,1'-carbonyldiimidazole were added. The mixture was boiled under reflux for 4 hours. The THF was subsequently removed by concentration, the oily residue was taken up in 1.5 l of dichloromethane, washed once with 500 ml of 1N aqueous hydrochloric acid, twice with 1 l of water each time and once with 500 ml of saturated, aqueous sodium chloride solution and dried over magnesium sulphate with the addition of about 7 g of fuller's earth. The solvent was removed by concentration. After drying there were obtained without further purification 220.3 g (yield: 96%) of pure product. M.p.: 135°-136° C.

reactant | benzyl (2S,3S)-1-(3,4-dimethoxybenzyl)-2-[1 (R),2-dihydroxyethyl]-4-oxo-3-azetidinecarbamate | 0.5 mol, 215.23 g | COC=1C=C(CN2[C@@H]([C@@H](C2=O)NC(=O)OCC2=CC=CC=C2)[C@H](CO)O)C=CC1OC | C22H26N2O7
reactant | 1,1'-carbonyldiimidazole | 0.75 mol, 12.61 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 3 l | C1CCOC1 | C4H8O
product | Benzyl (2S,3S)-1-(3,4-dimethoxybenzyl)-2-[(R)-2-oxo-1,3-dioxolan-4-yl]-4-oxo-3-azetidine carbamate | 220.3 g, yield: 96% | COC=1C=C(CN2[C@@H]([C@@H](C2=O)NC(=O)OCC2=CC=CC=C2)[C@H]2OC(OC2)=O)C=CC1OC | C23H24N2O8
